US08252806B2
Cyclopentyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride (Compound A9)
Was prepared according to Method A from 2,4-dichloroquinazoline, cycloheptylamine and 3,5-dimethylpyrazole. Mp. 207° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | cycloheptylamine | C1(CCCCCC1)N | C7H15N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | Cyclopentyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride | Cl.C1(CCCC1)NC1=NC(=NC2=CC=CC=C12)N1N=C(C=C1C)C | InChI=1S/C18H21N5.ClH/c1-12-11-13(2)23(22-12)18-20-16-10-6-5-9-15(16)17(21-18)19-14-7-3-4-8-14;/h5-6,9-11,14H,3-4,7-8H2,1-2H3,(H,19,20,21);1H
